US04590202
6.90 grams (0.024 mole) of 3-bromo-5H-dibenzo[a,d]cycloheptene-5-ylamine, 2.95 grams (0.012 mole) of 2-methylmercapto-4,5-dihydroimidazole hydroiodide, and 65 milliliters of absolute ethanol were stirred together and refluxed for 28 hours. At the end of this period, the solvent was evaporated under reduced pressure and the residue triturated with five 100 milliliter portions of diethyl ether to obtain a purified residue. The purified residue was dissolved in 20 milliliters of absolute ethanol and 300 milliliters of ether added thereto whereupon a solid precipitated. The mixture was stirred thoroughly, the solvent decanted to obtain a residue which was placed on a Still-silica column and eluted with 5 percent methanol in chloroform. The eluted fractions were examined by thin layer chromatography (TLC), the homogeneous TLC fractions combined, and the solvent then vaporized to obtain the desired N-(2-imidazolidinylidene)-3-bromo-5H-dibenzo[a,d]cyclohepten-5-amine hydroiodide product as residue. The product was crystallized from chloroform to obtain purified product, m.p. 240°-241° C. (dec.). Elemental analyses were as follows: Calc'd for C18H17BrIN3 : C, 44.84; H, 3.55; N, 8.72. Found: C, 44.75; H, 3.48; N, 8.46.

reactant | 3-bromo-5H-dibenzo[a,d]cycloheptene-5-ylamine | 0.024 mole, 6.90 grams | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)N)C1 | C15H12BrN
reactant | 2-methylmercapto-4,5-dihydroimidazole hydroiodide | 0.012 mole, 2.95 grams | I.CSC=1NCCN1
reactant | ether | 300 milliliters | CCOCC | C4H10O
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
solvent | ethanol | 65 milliliters | C(C)O | C2H6O
product | N-(2-imidazolidinylidene)-3-bromo-5H-dibenzo[a,d]cyclohepten-5-amine hydroiodide | I.N1C(NCC1)=NC1C2=C(C=CC3=C1C=C(C=C3)Br)C=CC=C2 | InChI=1S/C18H16BrN3.HI/c19-14-8-7-13-6-5-12-3-1-2-4-15(12)17(16(13)11-14)22-18-20-9-10-21-18;/h1-8,11,17H,9-10H2,(H2,20,21,22);1H
